US08937080B2
Step g: 2-Methoxy-6-phenylpyrimidin-4-ol (1g)
Sodium (4.14 g, 180 mmol) was dissolved in dry methanol (120 ml) and the solution was cooled to 0-5° C. O-Methylisourea sulfat (10.3 g, 60 mmol) and ethyl benzoylacetate (11.5 g, 60 mmol) was added and the mixture was stirred for two hours at room temperature and then refluxed for twelve hours. The mixture was evaporated, acidified with 2M HCl and extracted three tines with ethyl acetate and three times with DCM. The organic phase was dried and evaporated and the residue was suspended in diethyl ether, the solid filtered off, washed and dried which gave the title compound, (1.0 g) MS+1=203.

reactant | Sodium | 180 mmol, 4.14 g | [Na] | Na
reactant | O-Methylisourea sulfat | 60 mmol, 10.3 g | S(=O)(=O)(O)O.COC(N)=N
reactant | ethyl benzoylacetate | 60 mmol, 11.5 g | C(C1=CC=CC=C1)(=O)CC(=O)OCC | C11H12O3
solvent | methanol | 120 ml | CO | CH4O
product | 2-Methoxy-6-phenylpyrimidin-4-ol | 1.0 g | COC1=NC(=CC(=N1)O)C1=CC=CC=C1 | C11H10N2O2
